US07465815B2
3-Methyl-5,6,7,8-tetrahydro-1-naphtalenol
To a mixed solution of 3-methyl-5,6,7,8-tetrahydro-1-naphthalenyl acetate synthesized in Reference Example 173 (5.1 g, 25.1 mmol) in THF (120 mL) and methanol (30 mL) was added 12 N aqueous sodium hydroxide solution (2.5 mL) at room temperature, and the mixture was stirred for 30 minutes, and then concentrated under reduced pressure. Water and hydrochloric acid were added to the residue, and the mixture was acidified, which was extracted with ethyl acetate. The organic layer was washed with water and a saturated brine, and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was crystallized with ethyl acetate-hexane to obtain 4.1 g (yield 99%) of the title compound. Melting point: 95-96° C. (hexane-ethyl acetate).

reactant | 3-methyl-5,6,7,8-tetrahydro-1-naphthalenyl acetate | C(C)(=O)OC1=CC(=CC=2CCCCC12)C | C13H16O2
reactant | sodium hydroxide | 12 N, 2.5 mL | [OH-].[Na+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
product | 3-Methyl-5,6,7,8-tetrahydro-1-naphtalenol | 4.1 g, yield 99% | CC=1C=C(C=2CCCCC2C1)O | C11H14O
